US07777038B2
35 ml of an aqueous 1 N-lithium hydroxide solution was added to a mixed ethanol (200 ml) and THF (200 ml) solution of 4.0 g of 5-[8-methoxy-1-(4-methoxycarbonylbenzyl)-2-oxo-1,2,3,4-tetrahydroquinolin-5-ylmethyl]thiazolidine-2,4-dione, followed by stirring at room temperature overnight. The solvent was distilled off under reduced pressure, hydrochloric acid was added to the residue, and the insoluble matter thus formed was collected by filtration. The collected insoluble matter was purified by silica gel column chromatography (n-hexane:ethyl acetate=1:1→1:3), and recrystallized from ethyl acetate, giving 3.75 g (97% yield) of 5-[8-methoxy-1-(4-carboxybenzyl)-2-oxo-1,2,3,4-tetrahydroquinolin-5-ylmethyl]thiazolidine-2,4-dione as a white powder.

reactant | lithium hydroxide | [OH-].[Li+]
reactant | ethanol | 200 ml | C(C)O | C2H6O
reactant | 5-[8-methoxy-1-(4-methoxycarbonylbenzyl)-2-oxo-1,2,3,4-tetrahydroquinolin-5-ylmethyl]thiazolidine-2,4-dione | 4.0 g | COC=1C=CC(=C2CCC(N(C12)CC1=CC=C(C=C1)C(=O)OC)=O)CC1C(NC(S1)=O)=O | C23H22N2O6S
solvent | THF | 200 ml | C1CCOC1 | C4H8O
product | 5-[8-methoxy-1-(4-carboxybenzyl)-2-oxo-1,2,3,4-tetrahydroquinolin-5-ylmethyl]thiazolidine-2,4-dione | 3.75 g, 97% yield | COC=1C=CC(=C2CCC(N(C12)CC1=CC=C(C=C1)C(=O)O)=O)CC1C(NC(S1)=O)=O | C22H20N2O6S
